US04175139
3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl stearate
16 Grams of solanesol, 7.5 g. of stearic acid and 10 g. of polyphosphoric acid ethyl ester were dissolved in 40 ml of chloroform and the solution was refluxed under stirring for 4 hours. After completion of the reaction, the reaction product was poured in water and added with about 10 g. of sodium hydrogencarbonate to decompose the polyphosphoric acid ester. After extraction with ether, the ether layer was washed with water and subjected to distillation under reduced pressure. The residual oily substance was purified by column chromatography with 100 g. of silica gel to obtain 12.5 g. (54.8%) of white solid (m.p. 36°-37° C.).______________________________________Elementary analysis as C63H108O2 : C H______________________________________Theoretical (%): 84.31 12.13Found (%): 84.27 12.11______________________________________

reactant | solanesol | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | stearic acid | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C63H108O2
